Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / adhesive tape / Motrin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
anemia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female past medical history significant for 
Roux-en-Y
complicated by a marginal ulcer, status post reversal presents
with anemia and fatigue. The patient was supposed to be referred
for iron infusion, however this was not able to be arranged
urgently. The patient is presenting for transfusion. She reports
feeling weak since her surgery with dyspnea for the past month
with an episode yesterday when she fell asleep on the toilet and
woke up on the floor. She denies any bloody or melenic stools. 
NO
f/c, CP, abdominal pain. She reports vomiting every few days. 

In the ED, initial VS were: T 97.9, HR98, BP 130/78, RR 16, 100%
RA 

Exam notable for: none recorded. ECG WNL (NSR, no ST changes).
Guaiac was negative

Labs showed:
WBC: 3.2  Hgb: 7.9  Plt: 228 
139|101|  9     AGap=12 
-----------<92 
3.8| 26|0.6  
Ca: 9.0 Mg: 1.8 P: 3.2
ALT: 9 AP: 123 Tbili: <0.2 Alb: 4.1 
AST: 18 
TSH:1.5 
Iron: 29  | calTIBC: 384 | Ferritin: 9.8 | TRF: 295
___: 12.2  PTT: 32.1  INR: 1.1  
UA: negative

Imaging showed: none done

Patient received:
Pregabalin 100 mg and Tylenol 1g

No services was consulted  

Transfer VS were: T98.5, HR83, BP 114/65, RR 16, 98% RA 
 
On arrival to the floor, patient reports that she has had
persistent, severe, life-limiting fatigue since her previous
surgery. She describes difficulty staying awake, sleeping most 
of
the time that does not necessarily get worse through the course
of the day. She describes her knees 'buckling' and causing her 
to
fall. No head strike, LOC. She endorses shortness of breath and
fatigue with walking more than ___ yards. Further, she endorses
mild blurry vision since last hospitalization, as well as
persistent tension headache. Finally, patient endorses
constipation with episodes of nausea and vomiting with bowel
movements (every 3 days or so). Thinks she is hydrating well
overall but states she has had some low blood pressures (to ___
systolic) at home.
 
Past Medical History:
PMH:
hx obesity
back pain
hip pain 
neck pain
gastro-gastric fistula

PSH:
RNY gastric bypass ___
Gastro-gastric fistula
hysterectomy
myomectomy for fibroids
open cholecystectomy                       
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
VS:  98.0 PO 129/84 82 18 100%RA 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, dry MM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, mild ___ systolic murmur over RUSB and LUSB,
gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants (though 
reports
nausea with palpation over epigastrium and RUQ), no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing. trace edema in extremities 
to
mid-shin
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, CN II-XII intact,  sensation grossly intact,
strength ___ in extremities except for ___ in LLE (chronic per
pt)
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

Discharge Physical Exam:
GENERAL: Well appearing woman in NAD. Comfortable. AAOx3.
HEENT: Normocephalic, atraumatic. MMM. 
CARDIAC: Regular rate and rhythm. No appreciable murmurs.
PULMONARY: CTAB. Breathing comfortably on room air.
ABDOMEN: Soft, mild TTP epigastric region, non-distended. 
EXTREMITIES: Warm, well perfused. 1+ BLE edema
 
Pertinent Results:
Admission Labs:

___ 05:20PM BLOOD WBC-3.2* RBC-3.50* Hgb-7.9* Hct-26.8* 
MCV-77* MCH-22.6* MCHC-29.5* RDW-20.7* RDWSD-56.7* Plt ___
___ 05:20PM BLOOD Neuts-54.4 ___ Monos-9.1 Eos-4.7 
Baso-0.6 Im ___ AbsNeut-1.74 AbsLymp-0.99* AbsMono-0.29 
AbsEos-0.15 AbsBaso-0.02
___ 05:20PM BLOOD ___ PTT-32.1 ___
___ 05:20PM BLOOD Glucose-92 UreaN-9 Creat-0.6 Na-139 K-3.8 
Cl-101 HCO3-26 AnGap-12
___ 05:20PM BLOOD ALT-9 AST-18 AlkPhos-123* TotBili-<0.2
___ 05:20PM BLOOD Albumin-4.1 Calcium-9.0 Phos-3.2 Mg-1.8 
Iron-29*
___ 05:20PM BLOOD calTIBC-384 Ferritn-9.8* TRF-295
___ 05:20PM BLOOD TSH-1.5

Discharge Labs:

___ 06:11AM BLOOD WBC-2.2* RBC-3.49* Hgb-8.2* Hct-27.2* 
MCV-78* MCH-23.5* MCHC-30.1* RDW-21.5* RDWSD-59.5* Plt ___

Microbiology:

   URINE CULTURE (Final ___:    NO GROWTH. 

Studies:
CT HEAD W/O CONTRASTStudy Date of ___:09 ___
FINDINGS: 
 
There is no evidence of infarction, hemorrhage, edema, or mass 
effect.  The
ventricles and sulci are normal in size and configuration.
 
There is no evidence of fracture.  There is mild mucosal 
thickening of the
ethmoid air cells.  The visualized portion of the remaining 
paranasal sinuses,
mastoid air cells, and middle ear cavities are clear.  The 
visualized portion
of the orbits are unremarkable.
 
IMPRESSION:
 
 
1. No evidence of major vascular territorial infarction or 
intracranial
hemorrhage on noncontrast head CT.
2. No intracranial mass effect

Portable TTE (Complete) Done ___ at 12:20:49 ___      FINAL
Findings
LEFT ATRIUM: Mild ___. 

RIGHT ATRIUM/INTERATRIAL SEPTUM: Normal RA size. No ASD by 2D or 
color Doppler. 

LEFT VENTRICLE: Normal LV wall thickness, cavity size and 
regional/global systolic function (LVEF >55%). No resting LVOT 
gradient. 

RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 

AORTA: Normal aortic diameter at the sinus level. 

AORTIC VALVE: Normal aortic valve leaflets (3). No AS. No AR. 

MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 

___ VALVE: Normal tricuspid valve leaflets. Mild [1+] TR. 
Normal PA systolic pressure. 

PULMONIC VALVE/PULMONARY ARTERY: Pulmonic valve not visualized. 
No PS. Physiologic PR. 

PERICARDIUM: No pericardial effusion.
Conclusions
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thickness, 
cavity size and regional/global systolic function are normal 
(LVEF >55%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) appear structurally 
normal with good leaflet excursion and no aortic stenosis or 
aortic regurgitation. The mitral valve appears structurally 
normal with trivial mitral regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Preserved biventricular systolic function. Mild 
tricuspid regurgitation. Normal pulmonary artery systolic 
pressure. 
 
Brief Hospital Course:
___ female with PMHx notable for Roux-en-Y complicated 
by gastro-gastro fistula s/p recent reversal who initially 
presented for severe fatigue and headache. Laboratory workup 
notable for severe iron deficiency anemia, thiamine deficiency, 
and overall picture of malnourishment that has been worsening 
since Roux-en-Y reversal approximately 1 month ago. Initiated 
repletion of nutritional deficiencies with IV dextran and IV 
Thiamine with improvement in hr fatigue by time of discharge

#Fatigue:
Presented with symptoms of severe fatigue causing her to have 
limited mobility and sleep most of the day on a daily basis. 
Fatigue is most likely multi-factorial as she says sleep study 
in past showed central and obstructive apnea and she had not 
been using CPAP at home (mask has not fit since she lost weight 
after Roux-en-Y). Also with significant iron-deficiency anemia 
for which iron dextran infusion was started. By discharge, 
patient reported significant improvement in her fatigue. 

#Iron deficiency anemia:
Chronic anemia with Hgb ___ range. Does not appear to be acutely 
worsened though notable for very low iron studies. Likely 
etiology is poor PO intake, nausea, vomiting, and complex GI 
surgical history. Treated with IV iron dextran infusion while 
hospitalized and started on oral iron supplementation on 
discharge. She may benefit from IV dextran infusions in the 
future and should have regular monitoring of her CBC. 

#Nausea/vomiting
#Malnutrition
#Thiamine deficiency:
Described symptoms of progressively worsening nausea and 
vomiting x1 month since prior surgery discharge. Overall no 
significant vomiting episodes on floor and required only minimal 
anti-emetics. She was supplemented with MVI and IV Thiamine 
while hospitalized. Thiamine level was pending at time of 
discharge. She should also start additional supplementation on 
discharge based on levels of Ca, Vitamin D, and Vitamin B12. She 
tolerated a regular diet while hospitalized though in the future 
if nutrition remains a concern, discussions about tube feeds may 
need to be approached.

#Headache:
Initially concerning for chronic bleed or increased ICP given 
chronicity (x1 month). Also with symptoms of photophobia, though 
no positional or temporal changes. CT head was negative for 
acute pathology. Headache resolved over course of admission with 
fluid repletion and Tylenol over course of admission. 

#Lower extremity edema:
Most likely from reduced mobility vs. malnutrition. BNP 
negative. TTE showed preserved biventricular systolic function 
with mild TR.

#Ulcer at G-J anastamosis: Noted on EGD ___. Continued 
Pantoprazole 40 mg PO Q12H. She was due for repeat EGD in ___ for which she never presented. She will need to follow-up 
on this after discharge.

TRANSITIONAL ISSUES
===================
[ ] EGD in ___ revealed 2 cm clean based ulcer at G-J 
anastomosis. She was started on PPI BID at that time with 
recommendation to have repeat EGD 12 weeks later to monitor for 
resolution. She never had follow-up EGD and should attend her GI 
appointment (as listed above). Should also discuss the need to 
continue PPI BID at that time
[ ] F/u Thiamine level (pending from hospitalization)
[ ] Advise checking zinc level as low zinc levels can result in 
dysgeusia (which patient was intermittently endorsing)
[ ] Advise checking B12, Vitamin D, Calcium levels to determine 
need for supplementation 
[ ] Please check CBC in 1 week after discharge. H/H on discharge 
8.___.2. 
[ ] ___ benefit from IV dextran infusions as an outpatient. 
Tolerated well during this admission with improvement in her 
fatigue
[ ] Continue to monitor po intake, which has been difficult 
since Roux-en-Y reversal given intermittent nausea/vomiting. If 
poor nutrition persists, discussions about the role of tube 
feeds may need to be approached
[ ] MEDICATIONS STARTED: Ferrous sulfate, Multivitamin, Thiamine
[ ] MEDICATIONS STOPPED: None
[ ] MEDICATIONS CHANGED: None

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO TID:PRN constipation 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. Pregabalin 100 mg PO BID 
4. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
5. Albuterol Inhaler 2 PUFF IH Q4H:PRN sob 
6. Escitalopram Oxalate 10 mg PO DAILY 
7. Thiamine 50 mg PO DAILY 
8. Acetaminophen 500 mg PO Q6H 
9. Vitamin D ___ UNIT PO DAILY 
10. Cyanocobalamin 500 mcg PO DAILY 
11. LORazepam 1 mg PO TID:PRN anxiety 
12. Modafinil 200 mg PO QAM 
13. Ondansetron 4 mg PO Q8H:PRN nausea 
14. Oxybutynin 5 mg PO BID 
15. Pantoprazole 40 mg PO Q12H 
16. Sucralfate 1 gm PO QID 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY constipation 
RX *bisacodyl 5 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0 
2.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*2 
3.  Milk of Magnesia 30 mL PO PRN CONSTIPATION 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 5 mL by 
mouth PRN Refills:*0 
4.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2 
5.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*2 
6.  Acetaminophen 500 mg PO Q6H  
7.  Albuterol Inhaler 2 PUFF IH Q4H:PRN sob  
8.  Cyanocobalamin 500 mcg PO DAILY  
9.  Docusate Sodium 100 mg PO TID:PRN constipation  
10.  Escitalopram Oxalate 10 mg PO DAILY  
11.  Fish Oil (Omega 3) 1000 mg PO BID  
12.  LORazepam 1 mg PO TID:PRN anxiety  
13.  Modafinil 200 mg PO QAM  
14.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*15 Tablet Refills:*0 
15.  Oxybutynin 5 mg PO BID  
16.  Pantoprazole 40 mg PO Q12H  
17.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
18.  Pregabalin 100 mg PO BID  
19.  Sucralfate 1 gm PO QID  
20.  Vitamin D ___ UNIT PO DAILY  
21.Outpatient Physical Therapy
needs HOME ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
------------------
IRON DEFICIENCY ANEMIA
MALNUTRITION
HEADACHE

SECONDARY DIAGNOSES
-------------------
NECK PAIN                                                       
BACK PAIN                                                        
          RYGB REVERSAL    

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ after experiencing worsening fatigue 
and reporting ongoing reduced appetite associated with nausea. 
You were found to have very low iron levels in relation to your 
anemia, for which you received IV iron infusions and reported 
improvement in your symptoms. You were also supplemented with IV 
thiamine and a multi-vitamin given concern for nutritional 
deficiencies as your oral intake has been limited by nausea and 
decreased appetite in the setting of your GI surgeries. We are 
reassured by your regular consumption of meals at this time, 
though you should attend your follow-up appointments with your 
surgical and GI specialists as listed below.

We have started you on the following medications: Iron, 
Multivitamin, Thiamine. 

Please be sure to attend all of the follow-up appointments 
listed below.

It was a pleasure taking care of you!

We wish you the best!

Your ___ Team
 
Followup Instructions:
___